US07034039B2
To a solution of ethyl 6-bromo-2-cyclopropylmethyl-4-hydroxy-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate (7.32 g, 20 mmol), 1-butanol (2.7 mL, 30 mmol) and tributylphosphine (10.0 mL, 40 mmol) in tetrahydrofuran (100 mL) was added 1,1′-(azodicarbonyl)dipiperidine (10.09 g, 40 mmol) and the mixture was stirred at room temperature for 3 h. The reaction mixture was concentrated under reduced pressure and the residue was purified, by silica gel column chromatography to give ethyl 6-bromo-4-butoxy-2-cyclopropylmethyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate (7.24 g, 85.8%) as an oil.

reactant | ethyl 6-bromo-2-cyclopropylmethyl-4-hydroxy-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate | 20 mmol, 7.32 g | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC1CC1)C(=O)OCC)O | C16H16BrNO4
reactant | 1-butanol | 30 mmol, 2.7 mL | C(CCC)O | C4H10O
reactant | tributylphosphine | 40 mmol, 10.0 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 40 mmol, 10.09 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | ethyl 6-bromo-4-butoxy-2-cyclopropylmethyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate | 7.24 g, 85.8% | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC1CC1)C(=O)OCC)OCCCC | C20H24BrNO4
